US07846960B2
4-[({4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-isopropoxy-benzoic Acid
In a manner similar to the preparation of 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic acid, utilizing 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-isopropoxy-benzoic acid methyl ester, the title compound is prepared. LC-ES/MS m/e 610.2 (M+1).

reactant | 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic acid | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC(=C(C=C1)N(C)CC1=CC(=C(C(=O)O)C=C1)OC)C | C31H30F3N3O5
reactant | 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-isopropoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)CN(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)OC(C)C)=O | C34H36F3N3O5
product | 4-[({4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-isopropoxy-benzoic Acid | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC(=C(C=C1)N(C)CC1=CC(=C(C(=O)O)C=C1)OC(C)C)C | C33H34F3N3O5
